US05741788
A. 3-Chloro-2-(3-chloro-1,2,5-thiadiazol-4-yl)-8-azabicyclo[3.2.1]oct-2-ene
To a solution of 8-ethoxycarbonyl-3-chloro-2-(3-chloro-1,2,5-thiadiazol-4-yl)-8-azabicyclo[3.2.1]oct-2-ene (1.7 g, 5 mmol) (PCT/DK91/00236) in dry toluene (50 ml) was added aluminium trichloride (2.6 g, 20 mmol). The reaction mixture was heated to 80° C. and kept at this temperature for 10 min. After cooling water was carefully added to the reaction mixture. The water solution was extracted with methylene chloride (2×50 ml), then made basic with 4N sodiumhydroxide solution. The alkaline solution was extracted with diethylether (3×100 ml). The organic extracts from the basic extractions were dried over magnesium sulfate and evaporated. The residue was crystallized as the oxalate salt from acetone in 1.60 g yield.

reactant | 8-ethoxycarbonyl-3-chloro-2-(3-chloro-1,2,5-thiadiazol-4-yl)-8-azabicyclo[3.2.1]oct-2-ene | 5 mmol, 1.7 g | C(C)OC(=O)N1C2C(=C(CC1CC2)Cl)C=2C(=NSN2)Cl | C12H13Cl2N3O2S
reactant | aluminium trichloride | 20 mmol, 2.6 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Chloro-2-(3-chloro-1,2,5-thiadiazol-4-yl)-8-azabicyclo[3.2.1]oct-2-ene | ClC1=C(C2CCC(C1)N2)C=2C(=NSN2)Cl | C9H9Cl2N3S
